US07132426B2
Step 3: Preparation of (6-tert-Butyl-pyridin-3-yl)-{4-[1-(4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidin-1-yl}-methanone (Compound A70).
In a 20 mL reaction vial was placed a stir bar, 4-t-butylnictinic acid (30 mg), O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (60 mg) and DMF (1 mL). The mixture was stirred 10 min at room temperature under N2. 1-(4-Methanesulfonyl-phenyl)-4-(piperidin-4-yloxy)-1H-pyrazolo[3,4-d]pyrimidine (17.2 mg) and triethylamine (100 μl) was added. After stirred 3 hours at room temperature under N2, the reaction mixture was filtered through a syringe filter. The filtrate was concentrated and purified by HPLC. 1H NMR (DMSO-d6, 400 MHz) δ 1.34 (s, 9H), 1.88 (m, 2H), 2.14 (m, 2H), 3.28 (s, 3H), 3.62 (m, 3H), 4.06 (m, 1H), 5.72 (m, 1H), 7.53 (d, 1H), 7.84 (m, 1H), 8.15 (d, 2H), 8.18 (m, 1H), 8.55 (d, 2H), 8.60 (m, 1H), 8.66 (s, 1H), 8.81 (s, 1H). Exact mass calculated for C27H30N6O4S 534.20, found 535.4 (MH+).

reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 60 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
reactant | 1-(4-Methanesulfonyl-phenyl)-4-(piperidin-4-yloxy)-1H-pyrazolo[3,4-d]pyrimidine | 17.2 mg | CS(=O)(=O)C1=CC=C(C=C1)N1N=CC=2C1=NC=NC2OC2CCNCC2 | C17H19N5O3S
solvent | triethylamine | 100 μl | C(C)N(CC)CC | C6H15N
product | (6-tert-Butyl-pyridin-3-yl)-{4-[1-(4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidin-1-yl}-methanone | C(C)(C)(C)C1=CC=C(C=N1)C(=O)N1CCC(CC1)OC1=C2C(=NC=N1)N(N=C2)C2=CC=C(C=C2)S(=O)(=O)C | C27H30N6O4S
